US07728029B2
A solution of 1-tert-butyl-5-(5-chloro-isoxazol-3-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (55.3 mg, 0.18 mmol) in absolute ethanol (0.93 mL, 0.2M) was treated with a 2M aqueous lithium hydroxide solution (0.18 mL, 0.37 mmol). The reaction was stirred at 25° C. for 1.5 h and then was heated to 100° C. for 1 h. At this time, the reaction was allowed to cool to 25° C. and was stirred at 25° C. overnight. At this time, the reaction was concentrated in vacuo. The residue was treated with water followed by acidification to pH=1 with a 1N aqueous hydrochloric acid solution. The resulting precipitate that formed was collected by filtration, washed with water and hexanes and dried in vacuo to afford 1-tert-butyl-5-(5-chloro-isoxazol-3-yl)-1H-pyrazole-4-carboxylic acid (38.7 mg, 77%) as an off-white solid.

reactant | 1-tert-butyl-5-(5-chloro-isoxazol-3-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.18 mmol, 55.3 mg | C(C)OC(=O)C=1C=NN(C1C1=NOC(=C1)Cl)C(C)(C)C | C13H16ClN3O3
reactant | lithium hydroxide | 0.37 mmol, 2M, 0.18 mL | [OH-].[Li+]
solvent | ethanol | 0.2M, 0.93 mL | C(C)O | C2H6O
product | 1-tert-butyl-5-(5-chloro-isoxazol-3-yl)-1H-pyrazole-4-carboxylic acid | 38.7 mg, 77% | C(C)(C)(C)N1N=CC(=C1C1=NOC(=C1)Cl)C(=O)O | C11H12ClN3O3
